US07312234B2
Purification of 3-Hydroxymethyl-N-pyridin-2-ylmethyl-benzenesulfonamide
To solution of 3-[(Pyridin-2-ylmethyl)-sulfamoyl]-benzoic acid (840 mg, 2.87 mmol) in THF (5 ml) was added BH3.THF (1M, 14.4 ml, 14.4 mmol) dropwise. After the addition, the reaction mixture was allowed to stir for 18 h at room temperature, and 5 N HCl (8 ml) was carefully added, resulting in the evolution of H2. Upon heating to 70° C. for 2 h, a clear solution was obtained. Water (30 ml) was added, and the resulting solution was extracted with diethyl ether (3×20 ml). The aqueous phase was cooled to 0° C., neutralized with solid NaOH, and then solid NaHCO3 and extracted with CHCl3 (6×20 ml). The combined organic extracts were dried over MgSO4, and concentrated under reduced pressure. The crude material was used without further purification in the next reaction.

reactant | 3-[(Pyridin-2-ylmethyl)-sulfamoyl]-benzoic acid | 2.87 mmol, 840 mg | N1=C(C=CC=C1)CNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C13H12N2O4S
reactant | BH3.THF | 14.4 mmol, 1M, 14.4 ml | B.C1CCOC1
reactant | HCl | 5 N, 8 ml | Cl | ClH
reactant | Water | 30 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-Hydroxymethyl-N-pyridin-2-ylmethyl-benzenesulfonamide | OCC=1C=C(C=CC1)S(=O)(=O)NCC1=NC=CC=C1 | C13H14N2O3S
